US06335463B1
The intermediate may be worked up in a conventional manner. The further process leading to sertindole comprises cyclization of N-(4-fluorophenyl)-N-(2-carboxy-4-chlorophenyl)glycine to the corresponding 3-acetoxy-indole using eg. acetic anhydride in the presence of alkalimetal acetate such as sodium acetate. 5-chloro-1-(4-fluoro)indole is then obtained from the 3-acetoxy-indole by reduction and subsequent elimination of H2O. The resulting 5-chloro-1-(4-fluorophenyl)indole is reacted with 4-piperidone according to the above procedure, the resulting 5-chloro-1-(4-fluorophenyl)-3-(1,2,3,6-tetrahydropyridin-4-yl)indole is reduced in order to obtain 5-chloro-1-(4-fluorophenyl)-3-(piperidin-4-yl)indole which in turn is reacted with 1-(2-chloroethyl)-2-imidazolidinon to obtain sertindole. Alternatively, the 5-chloro-1-(4-fluorophenyl)-3-(1,2,3,6-tetrahydropyridin-4-yl)indole may first be reacted with 1-(2-chloroethyl)-2-imidazolidinon followed by reduction, thereby obtaining sertindole, which may be isolated as an acid addition salt, e.g. the tartrate, or as the free base.

reactant | 5-chloro-1-(4-fluorophenyl)-3-(1,2,3,6-tetrahydropyridin-4-yl)indole | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C=1CCNCC1 | C19H16ClFN2
reactant | 1-(2-chloroethyl)-2-imidazolidinon | ClCCN1C(NCC1)=O | C5H9ClN2O
product | sertindole | C1=CC(=CC=C1N2C=C(C3=C2C=CC(=C3)Cl)C4CCN(CC4)CCN5CCNC5=O)F | C24H26ClFN4O
